US08124624B2
Ethyl 2-(piperidin-2-yl)acetate hydrochloride
Ethyl 2-(pyridin-2-yl)acetate (24.51 g, 148.4 mmol) was dissolved in ethanol (130 ml), and PtO2 (3.37 g, 14.84 mmol, 0.1 eq.) and chloroform (20 ml) were added. The suspension was stirred overnight under a H2 atmosphere (8 bar) at 40° C. According to TLC monitoring (silica gel, DCM/methanol 95:5), the reaction was incomplete, so that further chloroform (15 ml) was added and stirring was carried out for a further 2 d under a H2 atmosphere (8 bar) at 40° C. (TLC monitoring). After cooling, the catalyst was first removed by filtration over filtering earth and the filtrate was concentrated to dryness in vacuo. The ethyl 2-(piperidin-2-yl)acetate hydrochloride was used in the next stage without being purified further. Yield: 31.51 g, >100%

reactant | Ethyl 2-(pyridin-2-yl)acetate | 148.4 mmol, 24.51 g | N1=C(C=CC=C1)CC(=O)OCC | C9H11NO2
reactant | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
reactant | DCM methanol | C(Cl)Cl.CO
reactant | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 130 ml | C(C)O | C2H6O
catalyst | PtO2 | 14.84 mmol, 3.37 g, 0.1 eq. | O=[Pt]=O
product | Ethyl 2-(piperidin-2-yl)acetate hydrochloride | Cl.N1C(CCCC1)CC(=O)OCC | InChI=1S/C9H17NO2.ClH/c1-2-12-9(11)7-8-5-3-4-6-10-8;/h8,10H,2-7H2,1H3;1H
